US05002966
2-[2-[(6-Bromohexyl)oxy]ethyl]benzo[b]thiophene
2-Benzo[b]thiopheneethanol (2.20 g), 1,6-dibromohexane (2.59 ml), TAB (0.25 g), aqueous 12.5M sodium hydroxide (9 ml), and ether (20 ml) were stirred overnight at room temperature. The mixture was diluted with water (50 ml), extracted with ether (3×50 ml), and the combined, dried extracts were evaporated. The residual oil was purified by FCC eluting with cyclohexane-diethyl ether (100:0→98:2) to give the title compound as a colourless oil (2.73 g).

reactant | 2-Benzo[b]thiopheneethanol | 2.20 g | S1C2=C(C=C1CCO)C=CC=C2 | C10H10OS
reactant | 1,6-dibromohexane | 2.59 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 12.5M, 9 ml | [OH-].[Na+]
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]benzo[b]thiophene | 2.73 g | BrCCCCCCOCCC1=CC2=C(S1)C=CC=C2 | C16H21BrOS
